* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.024990748599675768
Fd1_1 0 s1 V1 1.2495374299837885
Gr1_1_1 0 s1 x1_a1 0 -150060178716.28992
Gr2_re_1_1 0 s1 x2_re_a1 0 -18288017001.176476
Gr2_im_1_1 0 s1 x2_im_a1 0 913306864.5030566
Gr3_re_1_1 0 s1 x3_re_a1 0 1733818358.6586945
Gr3_im_1_1 0 s1 x3_im_a1 0 36039854231.284386
Gr4_1_1 0 s1 x4_a1 0 51105695777.57282
Gr5_1_1 0 s1 x5_a1 0 17723185.093709935
Gr6_1_1 0 s1 x6_a1 0 -384253687.7977979
Gd1_2 0 s1 p2 0 0.1601314281553543
Fd1_2 0 s1 V2 8.006571407767716
Gr1_1_2 0 s1 x1_a2 0 -961933705788.431
Gr2_re_1_2 0 s1 x2_re_a2 0 -117936503387.85164
Gr2_im_1_2 0 s1 x2_im_a2 0 5411762363.536716
Gr3_re_1_2 0 s1 x3_re_a2 0 10918136145.28386
Gr3_im_1_2 0 s1 x3_im_a2 0 232735018853.58127
Gr4_1_2 0 s1 x4_a2 0 329782915585.01746
Gr5_1_2 0 s1 x5_a2 0 160392001.4706056
Gr6_1_2 0 s1 x6_a2 0 -2531308242.324101
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 3.0065093934694474e-12
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 1.1626965101424815e-10
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 14101419528.626127
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -14101419528.626127
Rp2_im_im_a1 0 x2_im_a1 1.1626965101424815e-10
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 1.261737882063201e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 7124150102.340481
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -7124150102.340481
Rp3_im_im_a1 0 x3_im_a1 1.261737882063201e-10
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 1.2026855353140737e-10
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 7.665910208975394e-09
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 1.6771575861145813e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.1601314281553543
Fd2_1 0 s2 V1 8.006571407767716
Gr1_2_1 0 s2 x1_a1 0 -961933705788.4309
Gr2_re_2_1 0 s2 x2_re_a1 0 -117936503387.85164
Gr2_im_2_1 0 s2 x2_im_a1 0 5411762363.536716
Gr3_re_2_1 0 s2 x3_re_a1 0 10918136145.28383
Gr3_im_2_1 0 s2 x3_im_a1 0 232735018853.58133
Gr4_2_1 0 s2 x4_a1 0 329782915585.0175
Gr5_2_1 0 s2 x5_a1 0 160392001.4706075
Gr6_2_1 0 s2 x6_a1 0 -2531308242.3241053
Gd2_2 0 s2 p2 0 0.0237837597862348
Fd2_2 0 s2 V2 1.18918798931174
Gr1_2_2 0 s2 x1_a2 0 -142809614379.64993
Gr2_re_2_2 0 s2 x2_re_a2 0 -17399071951.942593
Gr2_im_2_2 0 s2 x2_im_a2 0 872515767.4081653
Gr3_re_2_2 0 s2 x3_re_a2 0 1651523031.9830902
Gr3_im_2_2 0 s2 x3_im_a2 0 34285616680.99159
Gr4_2_2 0 s2 x4_a2 0 48619960812.48762
Gr5_2_2 0 s2 x5_a2 0 16514232.21220505
Gr6_2_2 0 s2 x6_a2 0 -365173980.7909611
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 3.0065093934694474e-12
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 1.1626965101424815e-10
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 14101419528.626127
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -14101419528.626127
Rp2_im_im_a2 0 x2_im_a2 1.1626965101424815e-10
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 1.261737882063201e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 7124150102.340481
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -7124150102.340481
Rp3_im_im_a2 0 x3_im_a2 1.261737882063201e-10
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 1.2026855353140737e-10
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 7.665910208975394e-09
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 1.6771575861145813e-09
.ENDS s_equivalent
