* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.00016629617424465334
Fd1_1 0 s1 V1 0.008314808712232667
Gr1_re_1_1 0 s1 x1_re_a1 0 -555923158.6210476
Gr1_im_1_1 0 s1 x1_im_a1 0 128746481.0830301
Gr2_re_1_1 0 s1 x2_re_a1 0 -2569732.3002690184
Gr2_im_1_1 0 s1 x2_im_a1 0 43354.68606623267
Gr3_re_1_1 0 s1 x3_re_a1 0 37645498.37138925
Gr3_im_1_1 0 s1 x3_im_a1 0 349921675.7449495
Gr4_re_1_1 0 s1 x4_re_a1 0 747053764.0260543
Gr4_im_1_1 0 s1 x4_im_a1 0 447488633.56710285
Gd1_2 0 s1 p2 0 0.0010078538671677852
Fd1_2 0 s1 V2 0.05039269335838926
Gr1_re_1_2 0 s1 x1_re_a2 0 -649924807.942227
Gr1_im_1_2 0 s1 x1_im_a2 0 848515590.9774787
Gr2_re_1_2 0 s1 x2_re_a2 0 34058329.13998771
Gr2_im_1_2 0 s1 x2_im_a2 0 -33780156.33049697
Gr3_re_1_2 0 s1 x3_re_a2 0 42505426.07588536
Gr3_im_1_2 0 s1 x3_im_a2 0 1050959955.3861154
Gr4_re_1_2 0 s1 x4_re_a2 0 180384743.98155937
Gr4_im_1_2 0 s1 x4_im_a2 0 -3531893920.4453845
*
* State networks driven by port 1
Cx1_re_a1 x1_re_a1 0 1.0
Gx1_re_a1 0 x1_re_a1 p1 0 0.1414213562373095
Fx1_re_a1 0 x1_re_a1 V1 7.0710678118654755
Rp1_re_re_a1 0 x1_re_a1 1.2146486420852518e-10
Gp1_re_im_a1 0 x1_re_a1 x1_im_a1 0 14399784110.785763
Cx1_im_a1 x1_im_a1 0 1.0
Gp1_im_re_a1 0 x1_im_a1 x1_re_a1 0 -14399784110.785763
Rp1_im_im_a1 0 x1_im_a1 1.2146486420852518e-10
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 9.039488896209694e-09
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 13285259233.18042
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -13285259233.18042
Rp2_im_im_a1 0 x2_im_a1 9.039488896209694e-09
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 2.454583826741007e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 10588544317.723602
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -10588544317.723602
Rp3_im_im_a1 0 x3_im_a1 2.454583826741007e-10
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.5245601791312256e-10
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 4104594521.7091827
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -4104594521.7091827
Rp4_im_im_a1 0 x4_im_a1 1.5245601791312256e-10
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.0010078538671677852
Fd2_1 0 s2 V1 0.05039269335838926
Gr1_re_2_1 0 s2 x1_re_a1 0 -649924807.9422265
Gr1_im_2_1 0 s2 x1_im_a1 0 848515590.9774792
Gr2_re_2_1 0 s2 x2_re_a1 0 34058329.139987715
Gr2_im_2_1 0 s2 x2_im_a1 0 -33780156.330496974
Gr3_re_2_1 0 s2 x3_re_a1 0 42505426.07588515
Gr3_im_2_1 0 s2 x3_im_a1 0 1050959955.3861151
Gr4_re_2_1 0 s2 x4_re_a1 0 180384743.9815587
Gr4_im_2_1 0 s2 x4_im_a1 0 -3531893920.4453845
Gd2_2 0 s2 p2 0 0.00017595599554203641
Fd2_2 0 s2 V2 0.00879779977710182
Gr1_re_2_2 0 s2 x1_re_a2 0 -567248795.5805236
Gr1_im_2_2 0 s2 x1_im_a2 0 135795134.13434896
Gr2_re_2_2 0 s2 x2_re_a2 0 -2262257.1450940464
Gr2_im_2_2 0 s2 x2_im_a2 0 -202309.15247896354
Gr3_re_2_2 0 s2 x3_re_a2 0 35690270.77438001
Gr3_im_2_2 0 s2 x3_im_a2 0 354350535.5077404
Gr4_re_2_2 0 s2 x4_re_a2 0 760216653.1625826
Gr4_im_2_2 0 s2 x4_im_a2 0 455570456.55580133
*
* State networks driven by port 2
Cx1_re_a2 x1_re_a2 0 1.0
Gx1_re_a2 0 x1_re_a2 p2 0 0.1414213562373095
Fx1_re_a2 0 x1_re_a2 V2 7.0710678118654755
Rp1_re_re_a2 0 x1_re_a2 1.2146486420852518e-10
Gp1_re_im_a2 0 x1_re_a2 x1_im_a2 0 14399784110.785763
Cx1_im_a2 x1_im_a2 0 1.0
Gp1_im_re_a2 0 x1_im_a2 x1_re_a2 0 -14399784110.785763
Rp1_im_im_a2 0 x1_im_a2 1.2146486420852518e-10
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 9.039488896209694e-09
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 13285259233.18042
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -13285259233.18042
Rp2_im_im_a2 0 x2_im_a2 9.039488896209694e-09
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 2.454583826741007e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 10588544317.723602
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -10588544317.723602
Rp3_im_im_a2 0 x3_im_a2 2.454583826741007e-10
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.5245601791312256e-10
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 4104594521.7091827
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -4104594521.7091827
Rp4_im_im_a2 0 x4_im_a2 1.5245601791312256e-10
.ENDS s_equivalent
