* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.00014563278114063352
Fd1_1 0 s1 V1 0.007281639057031676
Gr1_1_1 0 s1 x1_a1 0 -2946058256718460.0
Gr2_1_1 0 s1 x2_a1 0 2832019420811575.0
Gr3_1_1 0 s1 x3_a1 0 385965070884461.2
Gr4_1_1 0 s1 x4_a1 0 -441060803588602.1
Gr5_1_1 0 s1 x5_a1 0 -1088649484188.5975
Gr6_re_1_1 0 s1 x6_re_a1 0 -58165348453.321205
Gr6_im_1_1 0 s1 x6_im_a1 0 -70205572203.91316
Gr7_re_1_1 0 s1 x7_re_a1 0 -862468883.9685264
Gr7_im_1_1 0 s1 x7_im_a1 0 97472858.09654687
Gr8_re_1_1 0 s1 x8_re_a1 0 -3318155.997184786
Gr8_im_1_1 0 s1 x8_im_a1 0 25914553.64339015
Gr9_re_1_1 0 s1 x9_re_a1 0 -707474702.8311027
Gr9_im_1_1 0 s1 x9_im_a1 0 4807159805.130865
Gr10_re_1_1 0 s1 x10_re_a1 0 -23042.74893288193
Gr10_im_1_1 0 s1 x10_im_a1 0 29758.993254467146
Gr11_re_1_1 0 s1 x11_re_a1 0 -8976981770.034914
Gr11_im_1_1 0 s1 x11_im_a1 0 2688241632.663032
Gr12_re_1_1 0 s1 x12_re_a1 0 -4861919065.666963
Gr12_im_1_1 0 s1 x12_im_a1 0 -6332509068.320612
Gr13_1_1 0 s1 x13_a1 0 533580883.91021043
Gr14_re_1_1 0 s1 x14_re_a1 0 273350.7199029593
Gr14_im_1_1 0 s1 x14_im_a1 0 -1243660.7736826083
Gr15_re_1_1 0 s1 x15_re_a1 0 -18314.29965583301
Gr15_im_1_1 0 s1 x15_im_a1 0 4864.924530962577
Gd1_2 0 s1 p2 0 0.0008262283792666689
Fd1_2 0 s1 V2 0.04131141896333344
Gr1_1_2 0 s1 x1_a2 0 -1.8840778700411132e+16
Gr2_1_2 0 s1 x2_a2 0 1.813608052480986e+16
Gr3_1_2 0 s1 x3_a2 0 2658084990024523.5
Gr4_1_2 0 s1 x4_a2 0 -3019510332789566.0
Gr5_1_2 0 s1 x5_a2 0 -10308958910647.572
Gr6_re_1_2 0 s1 x6_re_a2 0 -136644217849.4098
Gr6_im_1_2 0 s1 x6_im_a2 0 -714523481730.8922
Gr7_re_1_2 0 s1 x7_re_a2 0 -3099333473.9675612
Gr7_im_1_2 0 s1 x7_im_a2 0 -482280259.8182396
Gr8_re_1_2 0 s1 x8_re_a2 0 133286991.99132161
Gr8_im_1_2 0 s1 x8_im_a2 0 -605825375.6624142
Gr9_re_1_2 0 s1 x9_re_a2 0 -28221338495.67814
Gr9_im_1_2 0 s1 x9_im_a2 0 15465678180.300543
Gr10_re_1_2 0 s1 x10_re_a2 0 -130173.76571042852
Gr10_im_1_2 0 s1 x10_im_a2 0 -120758.8046912857
Gr11_re_1_2 0 s1 x11_re_a2 0 -89157571138.26453
Gr11_im_1_2 0 s1 x11_im_a2 0 -45344001332.48912
Gr12_re_1_2 0 s1 x12_re_a2 0 -17027607972.763824
Gr12_im_1_2 0 s1 x12_im_a2 0 -114341899747.1254
Gr13_1_2 0 s1 x13_a2 0 39935638938.4397
Gr14_re_1_2 0 s1 x14_re_a2 0 1837837.8465761594
Gr14_im_1_2 0 s1 x14_im_a2 0 7779092.369998545
Gr15_re_1_2 0 s1 x15_re_a2 0 -881549.696851089
Gr15_im_1_2 0 s1 x15_im_a2 0 894150.0038050592
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.2442879559695185e-12
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 2.494098841806417e-12
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 1.3776809804464034e-11
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 1.2957337122171924e-11
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 5.08954629857153e-11
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 1.1103482676494467e-10
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 14164516476.507797
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -14164516476.507797
Rp6_im_im_a1 0 x6_im_a1 1.1103482676494467e-10
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 4.531728597566278e-10
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 14469009387.530972
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -14469009387.530972
Rp7_im_im_a1 0 x7_im_a1 4.531728597566278e-10
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 1.2871285919114167e-09
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 14062303368.166481
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -14062303368.166481
Rp8_im_im_a1 0 x8_im_a1 1.2871285919114167e-09
Cx9_re_a1 x9_re_a1 0 1.0
Gx9_re_a1 0 x9_re_a1 p1 0 0.1414213562373095
Fx9_re_a1 0 x9_re_a1 V1 7.0710678118654755
Rp9_re_re_a1 0 x9_re_a1 2.676859176937464e-10
Gp9_re_im_a1 0 x9_re_a1 x9_im_a1 0 12942180325.869379
Cx9_im_a1 x9_im_a1 0 1.0
Gp9_im_re_a1 0 x9_im_a1 x9_re_a1 0 -12942180325.869379
Rp9_im_im_a1 0 x9_im_a1 2.676859176937464e-10
Cx10_re_a1 x10_re_a1 0 1.0
Gx10_re_a1 0 x10_re_a1 p1 0 0.1414213562373095
Fx10_re_a1 0 x10_re_a1 V1 7.0710678118654755
Rp10_re_re_a1 0 x10_re_a1 1.8582403162818673e-07
Gp10_re_im_a1 0 x10_re_a1 x10_im_a1 0 12577784766.911373
Cx10_im_a1 x10_im_a1 0 1.0
Gp10_im_re_a1 0 x10_im_a1 x10_re_a1 0 -12577784766.911373
Rp10_im_im_a1 0 x10_im_a1 1.8582403162818673e-07
Cx11_re_a1 x11_re_a1 0 1.0
Gx11_re_a1 0 x11_re_a1 p1 0 0.1414213562373095
Fx11_re_a1 0 x11_re_a1 V1 7.0710678118654755
Rp11_re_re_a1 0 x11_re_a1 1.8489060369522195e-10
Gp11_re_im_a1 0 x11_re_a1 x11_im_a1 0 9339676021.401567
Cx11_im_a1 x11_im_a1 0 1.0
Gp11_im_re_a1 0 x11_im_a1 x11_re_a1 0 -9339676021.401567
Rp11_im_im_a1 0 x11_im_a1 1.8489060369522195e-10
Cx12_re_a1 x12_re_a1 0 1.0
Gx12_re_a1 0 x12_re_a1 p1 0 0.1414213562373095
Fx12_re_a1 0 x12_re_a1 V1 7.0710678118654755
Rp12_re_re_a1 0 x12_re_a1 1.595941656094682e-10
Gp12_re_im_a1 0 x12_re_a1 x12_im_a1 0 5061662023.352263
Cx12_im_a1 x12_im_a1 0 1.0
Gp12_im_re_a1 0 x12_im_a1 x12_re_a1 0 -5061662023.352263
Rp12_im_im_a1 0 x12_im_a1 1.595941656094682e-10
Cx13_a1 x13_a1 0 1.0
Gx13_a1 0 x13_a1 p1 0 0.07071067811865475
Fx13_a1 0 x13_a1 V1 3.5355339059327378
Rp13_a1 0 x13_a1 1.855978977049954e-10
Cx14_re_a1 x14_re_a1 0 1.0
Gx14_re_a1 0 x14_re_a1 p1 0 0.1414213562373095
Fx14_re_a1 0 x14_re_a1 V1 7.0710678118654755
Rp14_re_re_a1 0 x14_re_a1 1.8264809811158728e-09
Gp14_re_im_a1 0 x14_re_a1 x14_im_a1 0 1370945984.2128916
Cx14_im_a1 x14_im_a1 0 1.0
Gp14_im_re_a1 0 x14_im_a1 x14_re_a1 0 -1370945984.2128916
Rp14_im_im_a1 0 x14_im_a1 1.8264809811158728e-09
Cx15_re_a1 x15_re_a1 0 1.0
Gx15_re_a1 0 x15_re_a1 p1 0 0.1414213562373095
Fx15_re_a1 0 x15_re_a1 V1 7.0710678118654755
Rp15_re_re_a1 0 x15_re_a1 1.8112568805179388e-08
Gp15_re_im_a1 0 x15_re_a1 x15_im_a1 0 497798830.7100008
Cx15_im_a1 x15_im_a1 0 1.0
Gp15_im_re_a1 0 x15_im_a1 x15_re_a1 0 -497798830.7100008
Rp15_im_im_a1 0 x15_im_a1 1.8112568805179388e-08
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.0008262283792666689
Fd2_1 0 s2 V1 0.04131141896333344
Gr1_2_1 0 s2 x1_a1 0 -1.8840778703522096e+16
Gr2_2_1 0 s2 x2_a1 0 1.813608052779948e+16
Gr3_2_1 0 s2 x3_a1 0 2658084990426047.5
Gr4_2_1 0 s2 x4_a1 0 -3019510333248890.0
Gr5_2_1 0 s2 x5_a1 0 -10308958911762.764
Gr6_re_2_1 0 s2 x6_re_a1 0 -136644217907.80344
Gr6_im_2_1 0 s2 x6_im_a1 0 -714523481793.9137
Gr7_re_2_1 0 s2 x7_re_a1 0 -3099333474.7367296
Gr7_im_2_1 0 s2 x7_im_a1 0 -482280259.67357206
Gr8_re_2_1 0 s2 x8_re_a1 0 133286992.02523762
Gr8_im_2_1 0 s2 x8_im_a1 0 -605825375.6345825
Gr9_re_2_1 0 s2 x9_re_a1 0 -28221338496.038746
Gr9_im_2_1 0 s2 x9_im_a1 0 15465678184.735962
Gr10_re_2_1 0 s2 x10_re_a1 0 -130173.76614222396
Gr10_im_2_1 0 s2 x10_im_a1 0 -120758.8058205427
Gr11_re_2_1 0 s2 x11_re_a1 0 -89157571145.15567
Gr11_im_2_1 0 s2 x11_im_a1 0 -45344001329.22484
Gr12_re_2_1 0 s2 x12_re_a1 0 -17027607973.722254
Gr12_im_2_1 0 s2 x12_im_a1 0 -114341899752.8455
Gr13_2_1 0 s2 x13_a1 0 39935638942.29266
Gr14_re_2_1 0 s2 x14_re_a1 0 1837837.8457589117
Gr14_im_2_1 0 s2 x14_im_a1 0 7779092.36893282
Gr15_re_2_1 0 s2 x15_re_a1 0 -881549.6959157968
Gr15_im_2_1 0 s2 x15_im_a1 0 894150.0005865508
Gd2_2 0 s2 p2 0 0.00015347009929317606
Fd2_2 0 s2 V2 0.007673504964658804
Gr1_2_2 0 s2 x1_a2 0 -3160909779308941.5
Gr2_2_2 0 s2 x2_a2 0 3038778310614075.5
Gr3_2_2 0 s2 x3_a2 0 415971027981259.7
Gr4_2_2 0 s2 x4_a2 0 -475163038342805.7
Gr5_2_2 0 s2 x5_a2 0 -1208885787068.1
Gr6_re_2_2 0 s2 x6_re_a2 0 -58712258624.889275
Gr6_im_2_2 0 s2 x6_im_a2 0 -77653136953.13564
Gr7_re_2_2 0 s2 x7_re_a2 0 -871046255.1415341
Gr7_im_2_2 0 s2 x7_im_a2 0 89483168.89498517
Gr8_re_2_2 0 s2 x8_re_a2 0 -2926450.8475674912
Gr8_im_2_2 0 s2 x8_im_a2 0 19168976.892708667
Gr9_re_2_2 0 s2 x9_re_a2 0 -1024949111.1557295
Gr9_im_2_2 0 s2 x9_im_a2 0 4858939095.800213
Gr10_re_2_2 0 s2 x10_re_a2 0 -23736.024677505262
Gr10_im_2_2 0 s2 x10_im_a2 0 27806.758320010602
Gr11_re_2_2 0 s2 x11_re_a2 0 -9786575823.258474
Gr11_im_2_2 0 s2 x11_im_a2 0 1943931044.6026623
Gr12_re_2_2 0 s2 x12_re_a2 0 -4716278534.372878
Gr12_im_2_2 0 s2 x12_im_a2 0 -7840542412.059897
Gr13_2_2 0 s2 x13_a2 0 1158814146.824421
Gr14_re_2_2 0 s2 x14_re_a2 0 314206.6674667549
Gr14_im_2_2 0 s2 x14_im_a2 0 -1061657.769048601
Gr15_re_2_2 0 s2 x15_re_a2 0 -27932.888307026053
Gr15_im_2_2 0 s2 x15_im_a2 0 18005.888880521725
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.2442879559695185e-12
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 2.494098841806417e-12
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 1.3776809804464034e-11
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 1.2957337122171924e-11
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 5.08954629857153e-11
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 1.1103482676494467e-10
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 14164516476.507797
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -14164516476.507797
Rp6_im_im_a2 0 x6_im_a2 1.1103482676494467e-10
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 4.531728597566278e-10
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 14469009387.530972
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -14469009387.530972
Rp7_im_im_a2 0 x7_im_a2 4.531728597566278e-10
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 1.2871285919114167e-09
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 14062303368.166481
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -14062303368.166481
Rp8_im_im_a2 0 x8_im_a2 1.2871285919114167e-09
Cx9_re_a2 x9_re_a2 0 1.0
Gx9_re_a2 0 x9_re_a2 p2 0 0.1414213562373095
Fx9_re_a2 0 x9_re_a2 V2 7.0710678118654755
Rp9_re_re_a2 0 x9_re_a2 2.676859176937464e-10
Gp9_re_im_a2 0 x9_re_a2 x9_im_a2 0 12942180325.869379
Cx9_im_a2 x9_im_a2 0 1.0
Gp9_im_re_a2 0 x9_im_a2 x9_re_a2 0 -12942180325.869379
Rp9_im_im_a2 0 x9_im_a2 2.676859176937464e-10
Cx10_re_a2 x10_re_a2 0 1.0
Gx10_re_a2 0 x10_re_a2 p2 0 0.1414213562373095
Fx10_re_a2 0 x10_re_a2 V2 7.0710678118654755
Rp10_re_re_a2 0 x10_re_a2 1.8582403162818673e-07
Gp10_re_im_a2 0 x10_re_a2 x10_im_a2 0 12577784766.911373
Cx10_im_a2 x10_im_a2 0 1.0
Gp10_im_re_a2 0 x10_im_a2 x10_re_a2 0 -12577784766.911373
Rp10_im_im_a2 0 x10_im_a2 1.8582403162818673e-07
Cx11_re_a2 x11_re_a2 0 1.0
Gx11_re_a2 0 x11_re_a2 p2 0 0.1414213562373095
Fx11_re_a2 0 x11_re_a2 V2 7.0710678118654755
Rp11_re_re_a2 0 x11_re_a2 1.8489060369522195e-10
Gp11_re_im_a2 0 x11_re_a2 x11_im_a2 0 9339676021.401567
Cx11_im_a2 x11_im_a2 0 1.0
Gp11_im_re_a2 0 x11_im_a2 x11_re_a2 0 -9339676021.401567
Rp11_im_im_a2 0 x11_im_a2 1.8489060369522195e-10
Cx12_re_a2 x12_re_a2 0 1.0
Gx12_re_a2 0 x12_re_a2 p2 0 0.1414213562373095
Fx12_re_a2 0 x12_re_a2 V2 7.0710678118654755
Rp12_re_re_a2 0 x12_re_a2 1.595941656094682e-10
Gp12_re_im_a2 0 x12_re_a2 x12_im_a2 0 5061662023.352263
Cx12_im_a2 x12_im_a2 0 1.0
Gp12_im_re_a2 0 x12_im_a2 x12_re_a2 0 -5061662023.352263
Rp12_im_im_a2 0 x12_im_a2 1.595941656094682e-10
Cx13_a2 x13_a2 0 1.0
Gx13_a2 0 x13_a2 p2 0 0.07071067811865475
Fx13_a2 0 x13_a2 V2 3.5355339059327378
Rp13_a2 0 x13_a2 1.855978977049954e-10
Cx14_re_a2 x14_re_a2 0 1.0
Gx14_re_a2 0 x14_re_a2 p2 0 0.1414213562373095
Fx14_re_a2 0 x14_re_a2 V2 7.0710678118654755
Rp14_re_re_a2 0 x14_re_a2 1.8264809811158728e-09
Gp14_re_im_a2 0 x14_re_a2 x14_im_a2 0 1370945984.2128916
Cx14_im_a2 x14_im_a2 0 1.0
Gp14_im_re_a2 0 x14_im_a2 x14_re_a2 0 -1370945984.2128916
Rp14_im_im_a2 0 x14_im_a2 1.8264809811158728e-09
Cx15_re_a2 x15_re_a2 0 1.0
Gx15_re_a2 0 x15_re_a2 p2 0 0.1414213562373095
Fx15_re_a2 0 x15_re_a2 V2 7.0710678118654755
Rp15_re_re_a2 0 x15_re_a2 1.8112568805179388e-08
Gp15_re_im_a2 0 x15_re_a2 x15_im_a2 0 497798830.7100008
Cx15_im_a2 x15_im_a2 0 1.0
Gp15_im_re_a2 0 x15_im_a2 x15_re_a2 0 -497798830.7100008
Rp15_im_im_a2 0 x15_im_a2 1.8112568805179388e-08
.ENDS s_equivalent
